US07163937B2
Preparation D3, Step 1: A suspension of 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid (56.34 g, 185 mmol, see: S. Takagishi, et al., Synlett 1992) in dioxane (100 mL) was treated with the dropwise addition of 4 N hydrochloric acid solution in dioxane (250 mL, 1.0 mol), and the mixture was stirred for 4 h. Analysis by LC/MS indicated that the reaction was not complete, so additional 4 N hydrochloric acid solution in dioxane (250 mL, 1.0 mol) was added, and the mixture was stirred overnight. Analysis by LC/MS indicated that the reaction still contained c. 5% of the starting material, so additional 4 N hydrochloric acid solution in dioxane (100 mL, 0.4 mol) was added, and the mixture was stirred for 4 h. Analysis by LC/MS indicated that the reaction was now complete. The mixture was concentrated in-vacuo, and the residue was stripped 2× from methylene chloride to remove any remaining HCl. The 2-amino-5-(trifluoromethyl)benzoic acid, hydrochloride thus obtained was used immediately in the next step. MS (ES+)=206 (M+H+).

reactant | 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid | 185 mmol, 56.34 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C13H14F3NO4
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.4 mol, 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 mol, 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 mol, 250 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-(trifluoromethyl)benzoic acid, hydrochloride | Cl.NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | InChI=1S/C8H6F3NO2.ClH/c9-8(10,11)4-1-2-6(12)5(3-4)7(13)14;/h1-3H,12H2,(H,13,14);1H
